US07875645B2
2-(2-Ethyl-3,6-difluoro-benzyl)-4,5-dihydro-1H-imidazole was prepared from 2-(2,2-dibromo-vinyl)-3-ethyl-1,4-difluoro-benzene and ethylenediamine in analogy to Example 1e): yellow crystals; MS (ISP): 225.3 ([M+H]+, 100%).

reactant | 2-(2,2-dibromo-vinyl)-3-ethyl-1,4-difluoro-benzene | BrC(=CC1=C(C=CC(=C1CC)F)F)Br | C10H8Br2F2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-(2-Ethyl-3,6-difluoro-benzyl)-4,5-dihydro-1H-imidazole | C(C)C1=C(CC=2NCCN2)C(=CC=C1F)F | C12H14F2N2
